US06320068B1
Preparation 4 Methyl 2-(perfluoro-1-butanesulfonyloxy)-1-napthoate
Perfluoro-1-butanesulfonyl fluoride (19 mL, 106 mmol, 1 eq) was added to a solution of methyl 2-hydroxy-1-naphthoate (21.25 g, 105 mmol, 1 eq) and triethylamine (15 mL, 108 mmol, 1 eq) in tetrahydrofuran (150 mL) maintained at an internal temperature about 0° C., under nitrogen. Once the addition was complete, the mixture was allowed to warm to ambient temperature and stirred for 64 hours. Toluene (150 mL) was added causing some precipitation. The solids were removed by filtration through Celiteä and washed with toluene (20 mL). The organic solutions were combined and washed with 2 N HCl (aq) (2×50 mL), water (100 mL), saturated aqueous sodium carbonate solution (100 mL) and brine (100 mL). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. Yield 48.79 g, 95%

reactant | Perfluoro-1-butanesulfonyl fluoride | 106 mmol, 19 mL, 1 eq | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | methyl 2-hydroxy-1-naphthoate | 105 mmol, 21.25 g, 1 eq | OC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C12H10O3
reactant | triethylamine | 108 mmol, 15 mL, 1 eq | C(C)N(CC)CC | C6H15N
reactant | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | Methyl 2-(perfluoro-1-butanesulfonyloxy)-1-napthoate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)C(=O)OC)F | C16H9F9O5S
